US05516792
First, 50 g of xylose, from Sigma Chemical Company, 12.5 g of sodium acetate (anhydrous) and 200 ml of acetic anhydride were heated to reflux for 1 hour and poured into 1 L of ice water. Xylose tetraacetate was isolated by filtration and recrystallized from 95% ethanol to yield 56.75 g (54%).

reactant | xylose | 50 g | O=C[C@H](O)[C@@H](O)[C@H](O)CO | C5H10O5
reactant | sodium acetate | 12.5 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Xylose tetraacetate | C(C)(=O)O[C@@H](C=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O | C13H18O9
